US04207324
In 100 ml of ethanol was dissolved 6.53 g of 1-benzyl-2-phenyl-4-chloroimidazole-5-acetic acid and under ice-cooling, hydrogen chloride was introduced until saturation. The solution was further stirred at room temperature overnight. The reaction mixture was concentrated to dryness under reduced pressure and the concentrate was run onto a column of 200 g silica gel, elution being carried out with benzene-chloroform (1:1). By the above procedure was obtained 2.28 g of 1-benzyl-2-phenyl-4-chloro-5-ethoxycarbonylmethylimidazole as crude crystals, which were then recrystallized from diethyl ether-hexane. Colorless needles, m.p. 72°-73° C.

reactant | 1-benzyl-2-phenyl-4-chloroimidazole-5-acetic acid | 6.53 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)O)Cl)C1=CC=CC=C1 | C18H15ClN2O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1-benzyl-2-phenyl-4-chloro-5-ethoxycarbonylmethylimidazole | 2.28 g | C(C1=CC=CC=C1)N1C(=NC(=C1CC(=O)OCC)Cl)C1=CC=CC=C1 | C20H19ClN2O2
